US05703050
b) 3-(3-(3-tert-Butyloxycarbonylaminopropyl)ureido)benzoic acid
2.50 g (6.84 mmol) of ethyl 3-(3-(3-tert-butyloxycarbonylaminopropyl)ureido)benzoate are dissolved in 80 ml of ethanol and treated with 3.42 ml of 2N NaOH. After 7 d at room temperature, the mixture is concentrated in vacuo. The residue is treated with water, and the mixture is acidified with citric acid and extracted with ethyl acetate. After drying (MgSO4), solid is filtered off and the solvent is removed in vacuo.

reactant | ethyl 3-(3-(3-tert-butyloxycarbonylaminopropyl)ureido)benzoate | 6.84 mmol, 2.50 g | C(C)(C)(C)OC(=O)NCCCNC(NC=1C=C(C(=O)OCC)C=CC1)=O | C18H27N3O5
reactant | NaOH | 2N, 3.42 ml | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-(3-(3-tert-Butyloxycarbonylaminopropyl)ureido)benzoic acid | C(C)(C)(C)OC(=O)NCCCNC(NC=1C=C(C(=O)O)C=CC1)=O | C16H23N3O5
